US08048878B2
Synthesis of (6R*,9aS*)-6-(3-fluorophenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one
A solution of 1-[(2R*,6S*)-2-(3-fluorophenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one (587 mg) and tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene][benzylidene]ruthenium (IV) dichloride (92 mg) in methylene chloride (250 mL) was heated under reflux in a nitrogen atmosphere for two hours. The reaction solution was left to cool to room temperature. Then, triethylamine (0.5 mL) was added thereto, and the reaction solution was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 460 mg of the title compound. The property values of the compound are as follows.

reactant | 1-[(2R*,6S*)-2-(3-fluorophenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one | 587 mg | FC=1C=C(C=CC1)[C@@H]1N([C@@H](CCC1)C=C)C(CC=C)=O | C17H20FNO
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
catalyst | tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene][benzylidene]ruthenium (IV) dichloride | 92 mg | CC1=CC(=C(C(=C1)C)N2CCN([CH-]2)C3=C(C=C(C=C3C)C)C)C.C1CCC(CC1)[PH+](C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | (6R*,9aS*)-6-(3-fluorophenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one | 460 mg | FC=1C=C(C=CC1)[C@@H]1N2C(CC=C[C@@H]2CCC1)=O | C15H16FNO
